US06433213B1
Crude 5R 1,1-dimethylethyl 6-cyano-5-hydroxy-3-oxohexanoate (about 150 mmoles) is dissolved by adding 22 mL diethylmethoxyborane and 200 mL tetrahydrofuran. The solution is stirred for about 2 hours at room temperature, then cooled to −70° C. to −75° C., and further diluted with 25 mL methanol. Sodium borohydride (6 g) as a solution in triglyme (75 mL) is added slowly at between −65° C. to −75° C. After the addition, the reaction mixture is warmed to 15° C. to 25° C., quenched by the addition of acetic acid and concentrated by vacuum distillation—keeping this distillate. The residue is diluted with methanol and concentrated by vacuum distillation—keeping this distillate and all subsequent ones separate from the first one. The residue is dissolved in a mixture of water and ethyl acetate, the layers separated, and the organic layer is concentrated by vacuum distillation. The residue is dissolved in methanol and acetic acid and concentrated by vacuum distillation. The residue is dissolved in ethyl acetate and concentrated by vacuum distillation resulting in crude [R(R*,R*)]-1,1-dimethylethyl 6-cyano-3,5-dihydroxyhexanoate.

reactant | 1,1-dimethylethyl 6-cyano-5-hydroxy-3-oxohexanoate | about 150 mmoles | C(#N)CC(CC(CC(=O)OC(C)(C)C)=O)O | C11H17NO4
reactant | diethylmethoxyborane | 22 mL | C(C)B(OC)CC | C5H13BO
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
reactant | Sodium borohydride | 6 g | [BH4-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | triglyme | 75 mL | COCCOCCOCCOC | C8H18O4
product | 1,1-dimethylethyl 6-cyano-3,5-dihydroxyhexanoate | C(#N)CC(CC(CC(=O)OC(C)(C)C)O)O | C11H19NO4
